* source XNOR
.EXTERNAL INPUT Vout
M_M4         VOUT N02021 N01581 0 Mbreakn           
M_M5         N01581 N03121 VOUT N015633 Mbreakp           
X_U1A         N02021 N03121 $G_DPWR $G_DGND 74LS04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Vdd         N044983 0 5V
V_A         N02021 0 5
C_C2         0 VOUT  10n  TC=0,0 
X_U1B         N01581 N04400 $G_DPWR $G_DGND 74LS04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Vdd1         N015633 0 5V
M_M7         N04400 N02021 VOUT N044983 Mbreakp           
M_M6         VOUT N03121 N04400 0 Mbreakn           
V_B         N01581 0 0
